US07981903B2
One third of the reaction mixture from the preparation of 2-fluoro-6-[(2-{[1-(N-methylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide was treated with N,O-dimethylhydroxylamine (145 mg, 2.37 mmol) and KI (90 mg, 0.54 mmol). After 1 h the resulting mixture was concentrated onto Celite and purified by silica gel chromatography using 1-10% MeOH (containing 0.2% NH3)/CH2Cl2 to obtain 2-fluoro-6-[(2-{[1-[N-methyl-N-(methyloxy)glycyl]-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide as a yellow solid (43 mg 42%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.59 (s, 3H), 3.08-3.20 (m, 2H), 3.43 (s, 3H), 3.60 (s, 2H), 3.78 (s, 3H), 4.22 (t, J=8.26 Hz, 2H), 6.23 (s, 1H), 6.81-6.92 (m, 1H), 6.95 (s, 1H), 6.97 (s, 1H), 7.28-7.40 (m, 1H), 7.61 (s, 1H), 8.02 (s, 1H), 8.10 (s, 1H), 8.51 (d, J=8.42 Hz, 1H), 8.63 (s, 1H), 10.54 (s, 1H), 11.31 (s, 1H); ESIMS (M+H)+=535.18.

reactant | 2-fluoro-6-[(2-{[1-(N-methylglycyl)-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide | FC1=C(C(=O)N)C(=CC=C1)NC1=C2C(NC(=N1)NC1=C(C=C3CCN(C3=C1)C(CNC)=O)OC)=NC=C2 | C25H25FN8O3
reactant | N,O-dimethylhydroxylamine | 2.37 mmol, 145 mg | CNOC | C2H7NO
product | 2-fluoro-6-[(2-{[1-[N-methyl-N-(methyloxy)glycyl]-5-(methyloxy)-2,3-dihydro-1H-indol-6-yl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]benzamide | FC1=C(C(=O)N)C(=CC=C1)NC1=C2C(NC(=N1)NC1=C(C=C3CCN(C3=C1)C(CN(OC)C)=O)OC)=NC=C2 | C26H27FN8O4
